US07838524B2
To a solution of 4,4-dimethyl-3-oxo-pentanenitrile (5.0 g, 40 mmol) and 3-methoxy-phenylhydrazine hydrochloride (7.0 g, 40 mmol) in anhydrous ethanol (200 mL) was added acetic acid (1.2 mL). The reaction mixture was heated at reflux overnight, then cooled to room temperature and concentrated at reduced pressure. The residue was combined with ethyl acetate (200 mL), and washed with saturated aq NaHCO3, water, and brine. The solution was dried over Na2SO4, evaporated at reduced pressure and the solid residue was re-dissolved in ethanol (100 mL). A solution of 2M HCl in ether was added and the mixture was stirred for 30 min. The solvent was removed at reduced pressure, the solid residue was triturated and washed with hexane (50 mL) and then dried in a vacuum oven overnight to give the product 5-tert-butyl-2-(3-methoxy-phenyl)-2H-pyrazol-3-ylamine hydrochloride (5.46 g, 56%) as an off-white solid. 1H-NMR (DMSO-d6) δ 7.50 (t, 1H), 7.10 (m, 3H), 5.60 (s, 1H), 3.80 (s, 3H), 1.30 (s, 9H); MS LC-MS [M+H]+=246.2, RT=1.90 min.

reactant | 4,4-dimethyl-3-oxo-pentanenitrile | 40 mmol, 5.0 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | 3-methoxy-phenylhydrazine hydrochloride | 40 mmol, 7.0 g | Cl.COC=1C=C(C=CC1)NN
reactant | acetic acid | 1.2 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-tert-butyl-2-(3-methoxy-phenyl)-2H-pyrazol-3-ylamine hydrochloride | 5.46 g, 56% | Cl.C(C)(C)(C)C=1C=C(N(N1)C1=CC(=CC=C1)OC)N | InChI=1S/C14H19N3O.ClH/c1-14(2,3)12-9-13(15)17(16-12)10-6-5-7-11(8-10)18-4;/h5-9H,15H2,1-4H3;1H
